US08865704B2
3-[trans-4-(piperazine-1-carbonyl)-cyclohexylmethyl]-1H-quinazoline-2,4-dione
To a solution of 4-[trans-4-(2,4-Dioxo-1,4-dihydro-2H-quinazolin-3-ylmethyl)cyclohexanecarbonyl]-piperazine-1-carboxylic acid tert-butyl ester (1.16 g, 2.5 mmol) in DCM (10 mL) H2SO4 (0.26 mL, 5 mmol) was added and the reaction was stirred at room temperature for 18 hours. The reaction mixture was washed with 10 mL of 0.4 M solution Na2CO3 and the organic phase was collected and concentrated under reduced pressure. 0.57 g of the titled compound were obtained (yield 63%).

reactant | 4-[trans-4-(2,4-Dioxo-1,4-dihydro-2H-quinazolin-3-ylmethyl)cyclohexanecarbonyl]-piperazine-1-carboxylic acid tert-butyl ester | 2.5 mmol, 1.16 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)CN1C(NC2=CC=CC=C2C1=O)=O | C25H34N4O5
reactant | DCM | 5 mmol, 10 mL | C(Cl)Cl | CH2Cl2
product | 3-[trans-4-(piperazine-1-carbonyl)-cyclohexylmethyl]-1H-quinazoline-2,4-dione | 0.57 g, yield 63% | N1(CCNCC1)C(=O)[C@@H]1CC[C@H](CC1)CN1C(NC2=CC=CC=C2C1=O)=O | C20H26N4O3
